US09107916B2
A. 2-{5-[(4-ethylbenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-ethylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.26 (3H, t, J=6.0 Hz)), 2.66 (2H, q, J=6.0 Hz), 5.01 (2H, s), 5.75 (1H, d, J=2.0 Hz), 7.22-7.35 (4H, m), 7.39 (1H, dd, J=0.8 Hz, J=4.8 Hz), 7.57 (1H, d, J=2.0 Hz), 8.02 (1H, s), 8.71 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H16N4O, 305. Found, 305.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-ethylphenyl)methanol | C(C)C1=CC=C(C=C1)CO | C9H12O
product | 2-{5-[(4-ethylbenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | C(C)C1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C18H16N4O
